US08115006B2
(1) Preparation of 5-chloro-N-(1-cyclopropylethyl)-2-nitrobenzamide
A mixed liquid comprising 25 g of 5-chloro-2-nitrobenzic acid, 25 ml of toluene, 22.2 g of thionyl chloride and 0.1 ml of dimethylformamide was refluxed with heating for 1 hour to prepare acid chloride. 18.0 g of triethylamine was added to a mixed solution comprising 13.75 g of 1-cyclopropylethylamine and 375 ml of tetrahydrofuran and cooled with ice. The above prepared acid chloride was dissolved in 30 ml of toluene and dropwise added under cooling with ice. After completion of dropwise addition, reaction was carried out at room temperature for 15 hours. After completion of the reaction, the reaction mixture was poured to water, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried over sodium sulfate, and ethyl acetate was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain 25 g of the pale yellow desired product (melting point: 137 to 141° C.).

reactant | 5-chloro-2-nitrobenzic acid | 25 g | ClC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4ClNO4
reactant | thionyl chloride | 22.2 g | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
reactant | 1-cyclopropylethylamine | 13.75 g | C1(CC1)C(C)N | C5H11N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | tetrahydrofuran | 375 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 18.0 g | C(C)N(CC)CC | C6H15N
product | 5-chloro-N-(1-cyclopropylethyl)-2-nitrobenzamide | 25 g | ClC=1C=CC(=C(C(=O)NC(C)C2CC2)C1)[N+](=O)[O-] | C12H13ClN2O3
